US08748606B2
Synthesis of tert-butyl 3-(6-[N-methyl-N-phenylamino]pyrimidin-4-ylamino)phenyl-carbamate
A mixture of tert-butyl 3-(6-chloropyrimidin-4-ylamino)phenylcarbamate (1.6 g, 5 mmol) and N-methylaniline (1.07 g, 10 mmol) was heated at 120° C. in a sealed tube for 2 hr. The reaction mixture was cooled to RT, mixed with 1 mL of 1N NaOH and 5 mL of DCM, stirred for 30 min, the product was filtered and dried under vacuum to give a solid product. MS (m/z): MH+=392.

reactant | tert-butyl 3-(6-chloropyrimidin-4-ylamino)phenylcarbamate | 5 mmol, 1.6 g | ClC1=CC(=NC=N1)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C15H17ClN4O2
reactant | N-methylaniline | 10 mmol, 1.07 g | CNC1=CC=CC=C1 | C7H9N
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-(6-[N-methyl-N-phenylamino]pyrimidin-4-ylamino)phenyl-carbamate | CN(C1=CC=CC=C1)C1=CC(=NC=N1)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C22H25N5O2
